US07846956B2
4.63 g of 5-(1-hydroxy-1-methylethyl)isoxazole-3-carbaldehyde was dissolved in 50 ml of ethanol, and 1.98 g of malononitrile was then added. The mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography to obtain 5.35 g of {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methylidene}malononitrile.

reactant | 5-(1-hydroxy-1-methylethyl)isoxazole-3-carbaldehyde | 4.63 g | OC(C)(C)C1=CC(=NO1)C=O | C7H9NO3
reactant | malononitrile | 1.98 g | C(CC#N)#N | C3H2N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | {[5-(1-hydroxy-1-methylethyl)-isoxazol-3-yl]methylidene}malononitrile | 5.35 g | OC(C)(C)C1=CC(=NO1)C=C(C#N)C#N | C10H9N3O2
